US04596870
1-(Phenoxy)methyl-5-chloropyrimidin-2-one
5-Chloropyrimidin-2-one (5 mmol) and triethylamine (5 mmol) were stirred together in dichloromethane (50 ml). When all the solid had dissolved a solution of chloromethoxybenzene (see Preparation 2) (5 mmol) in dichloromethane (25 ml) was added with stirring at room temperature. The resultant mixture was stirred for 24 h at this temperature before the solvent was distilled off. The residue was triturated with water (30 ml), extracted into chloroform (3×20 ml), and the dried (MgSO4) solution evaporated to yield a mixture of the title compound and the O-alkylated isomer in the ratio 3:1; yield 7.00 g (85%). The N-isomer was separated by column chromatography on silica gel; m.p. 146° C. 1H NMR (CDCl3): δ 5.92 (CH2), 6.8-7.4 (Ph), 7.80 and 8.43 (H-4 and H-6, respectively, J 3 Hz). IR (KBr): 1660 cm-1 (CO). MS (70 eV, m/z (% rel. int.)): 236 (7, M), 145 (32), 143 (100), 116 (31), 94 (6), 77 (18).

reactant | 5-Chloropyrimidin-2-one | 5 mmol | ClC=1C=NC(NC1)=O | C4H3ClN2O
reactant | triethylamine | 5 mmol | C(C)N(CC)CC | C6H15N
reactant | chloromethoxybenzene | 5 mmol | ClCOC1=CC=CC=C1 | C7H7ClO
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 1-(Phenoxy)methyl-5-chloropyrimidin-2-one | O(C1=CC=CC=C1)CN1C(N=CC(=C1)Cl)=O | C11H9ClN2O2
